US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 3,4,5-trimethoxyaniline were reacted to produce 5-fluoro-N4-(3-hydroxyphenyl)-N2-(3,4,5-trimethoxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.33 (s, 1H), 9.17 (s, 1H), 8.99 (s, 1H), 8.06 (d, 1H, J=3.3 Hz), 7.27 (d, 1H, J=7.5 Hz), 7.08–7.02 (m, 4H), 6.46 (dd, 1H, J=1.8 and 7.8 Hz), 3.60 (s, 6H), 3.57 (s, 3H); LCMS: purity: 99%; MS (m/e): 387(MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3,4,5-trimethoxyaniline | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-(3,4,5-trimethoxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=C(C(=C1)OC)OC)OC)NC1=CC(=CC=C1)O | C19H19FN4O4
